US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(benzylidene)thiosemicarbazide
To a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.55 mmol) and benzaldehyde (56 μl, 0.55 mmol) in ethanol (5 mL) was added a solution of sodium acetate (45 mg, 0.55 mmol) in water (1 mL) and the mixture was stirred at room temperature for 24 h. The mixture was diluted with water (1.5 mL) and the resultant precipitate was collected by filtration and isolated as a white solid (14 mg, 9%). 1H NMR (CDCl3): 9.84 (s, 1H), 7.88 (s, 1H), 7.64-7.61 (m, 2H), 7.50 (d, J=7.5 Hz, 1H), 7.42-7.40 (m, 3H), 6.24-6.14 (m, 2H), 4.314.26 (m, 1H), 3.06 (s, 1H), 2.96 (s, 1H), 1.94-1.86 (m, 1H), 1.67 (d, J=9.3 Hz, 1H), 1.52 (d, J=9.0 Hz, 1H), 1.46-1.39 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.55 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | benzaldehyde | 0.55 mmol, 56 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium acetate | 0.55 mmol, 45 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
solvent | water | 1.5 mL | O | H2O
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(benzylidene)thiosemicarbazide | 14 mg, 9% | C12C(CC(C=C1)C2)NC(NN=CC2=CC=CC=C2)=S | C15H17N3S
